US07101886B2
3-METHYL-2-NITROBENZYL CYANIDE
A round bottomed flask was charged with 6.51 g (0.028 mol) of 3-methyl-2nitrobenzyl bromide, 120 mL 1:1 EtOH:H2O, and 5.5 g KCN (0.084 mol). The reaction solution was heated to 60° C. for 2 h. The reaction was cooled and the volatiles removed in vacuo. The resulting solid was dissolved in 150 mL water and extracted with 300 mL ethyl acetate. The organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated. This gave 4.63 g (92% yield) of the desired material as a slightly yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.45–7.41 (m, 2H), 7.33–7.31 (m,1H), 3.77 (s, 2H), 2.36 (s, 3H).

reactant | 3-methyl-2nitrobenzyl bromide | 0.028 mol, 6.51 g | CC=1C(=C(CBr)C=CC1)[N+](=O)[O-] | C8H8BrNO2
reactant | EtOH | CCO | C2H6O
reactant | KCN | 0.084 mol, 5.5 g | [C-]#N.[K+]
solvent | H2O | O | H2O
product | 3-METHYL-2-NITROBENZYL CYANIDE | 4.63 g, 92% yield | CC=1C(=C(CC#N)C=CC1)[N+](=O)[O-] | C9H8N2O2
